US05919953
0.5 undried catalyst KP-10 (Sud-Chemie), 79.6 g triethyl orthoformate and 48.2 g 3-methyl-crotonaldehyde were placed in a flask in a nitrogen atmosphere in 34.3 g ethyleneglycol and stirred at 4° C. for 1.5 hours. Then the catalyst was filtered off through a suction filter and washed with 20 ml ethanol. The product was concentrated and isolated by fractionated distillation (2 fractions at 204 mbar/107° C). The 3-methyl-2-butene-1,3-dioxolane fractions obtained had a content of 81% (39.2 g) and 86.9% (3 g) (47% yield).

reactant | KP-10 | CC(C)C[C@@H](C(=O)N[C@@H](CCCN=C(N)N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)NC(=O)CNC(=O)[C@H](CC2=CC=CC=C2)NC(=O)[C@H](CO)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CC3=CNC4=CC=CC=C43)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CC5=CC=C(C=C5)O)N | C63H83N17O14
reactant | triethyl orthoformate | 79.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | 3-methyl-crotonaldehyde | 48.2 g | CC(=CC=O)C | C5H8O
solvent | ethyleneglycol | 34.3 g | C(CO)O | C2H6O2
product | 3-methyl-2-butene 1,3-dioxolane | 47% yield | CC(=CC)C.O1COCC1 | InChI=1S/C5H10.C3H6O2/c1-4-5(2)3;1-2-5-3-4-1/h4H,1-3H3;1-3H2
